### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Yoneda): add curried version of Yoneda lemma for heterogeneous universes, and other version of homNatIso

### PR DESCRIPTION
**Pull request by BGuillemet**
Prove a curried version of `yonedaCompUliftFunctorEquiv`, ie a completely functorial version of the Yoneda lemma with heterogeneous universes. Dually, prove a curried version of `coyonedaCompUliftFunctorEquiv`, ie a completely functorial version of the coYoneda lemma with heterogeneous universes.

In addition, prove a functorial version of `FullyFaithful.natEquiv` using `coyoneda` instead of `yoneda` (previously, the only functorial version of `FullyFaithful.natEquiv` were `homNatIso`, which is written using `yoneda`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
This PR intersects with the refactor PR #27576 which, among other things introduces `uliftYoneda` and `uliftYonedaEquiv` (but not the dual `uliftCoyoneda`). I may suggest waiting for #27576 to be merged, or basing the content of your PR on the content of the `CategoryTheory/Yoneda.lean` file from #27576 so as to add the dual version, etc.

**Comment by BGuillemet** [comment]
Ok, I will modify the PR so that it is based on #27576.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 1]
```diff
@@ -61,6 +61,19 @@ def coyoneda : Cᵒᵖ ⥤ C ⥤ Type v₁ where
   map f :=
     { app := fun _ g => f.unop ≫ g }
 
+/-- Variant of the Coyoneda embedding which allows a raise in the universe level
+for the category of types. -/
+@[pp_with_univ, simps!]
+def uliftCoyoneda : Cᵒᵖ ⥤ C ⥤ Type (max w v₁) :=
+  coyoneda ⋙ (whiskeringRight _ _ _).obj uliftFunctor.{w}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Thanks for adding this. I think it would a good occasion to replace the definition of `coyoneda` by making it an abbrev for `yoneda.flip` and similarly for `uliftCoyoneda`.

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: I changed the definitions to abbreviations and simplified a few proofs accordingly. I also had to remove the simp attribute from two lemmas in CategoryTheory.Limits.IndYoneda because they were no longer in simp-normal form. I am not sure if that was the correct way to deal with it, and I don't know if it implies other changes elsewhere?

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 2]
```diff
@@ -74,7 +74,6 @@ lemma colimitHomIsoLimitYoneda_hom_comp_π [HasLimitsOfShape Iᵒᵖ (Type u₂)
   change ((coyonedaOpColimitIsoLimitCoyoneda F).hom ≫ _).app A = _
   rw [coyonedaOpColimitIsoLimitCoyoneda_hom_comp_π]
 
-@[reassoc (attr := simp)]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:77]: It would be better to replace `(coyoneda.map ... .).app A` by `(yoneda.obj A).map ...`. (And similarly in the RHS of the lemma above.) You may have to fix a few (easy?) breakages in a other files.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 3]
```diff
@@ -53,13 +53,20 @@ def uliftYonedaIsoYoneda {C : Type u₁} [Category.{max w v₁} C] :
...
 /-- The co-Yoneda embedding, as a functor from `Cᵒᵖ` into co-presheaves on `C`.
 -/
-@[simps]
-def coyoneda : Cᵒᵖ ⥤ C ⥤ Type v₁ where
-  obj X :=
-    { obj := fun Y => unop X ⟶ Y
-      map := fun f g => g ≫ f }
-  map f :=
-    { app := fun _ g => f.unop ≫ g }
+@[simps!]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Simp lemmas for `yoneda` will apply automatically to this abbrev:
```suggestion
```

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: Ok, thanks!

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean (hunk 2 above)
Comment (BGuillemet) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean:77]: Ok. I thought about that but I was afraid that it could induce errors elsewhere.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 4]
```diff
@@ -788,23 +828,6 @@ theorem coyonedaPairing_map (P Q : C × (C ⥤ Type v₁)) (α : P ⟶ Q) (β :
     (coyonedaPairing C).map α β = coyoneda.map α.1.op ≫ β ≫ α.2 :=
   rfl
 
-variable {C} in
-/-- A bijection `(coyoneda.obj X ⋙ uliftFunctor ⟶ F) ≃ F.obj (unop X)` which is a variant
-of `coyonedaEquiv` with heterogeneous universes. -/
-def coyonedaCompUliftFunctorEquiv (F : C ⥤ Type max v₁ w) (X : Cᵒᵖ) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:794]: Could you add a `deprecated alias` for this definition, towards `uliftCoyonedaEquiv`?

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 5]
```diff
@@ -990,6 +1085,40 @@ def compYonedaCompWhiskeringLeftMaxRight {D : Type u₂} [Category.{max v₁ v
   NatIso.ofComponents (fun X => hF.homNatIsoMaxRight _)
     (fun f => by ext; exact Equiv.ulift.injective (hF.map_injective (by simp)))
 
+/-- `FullyFaithful.homEquiv` as a natural isomorphism, using coyoneda. -/
+@[simps!]
+def homNatIso' {D : Type u₂} [Category.{v₂} D] {F : C ⥤ D} (hF : F.FullyFaithful) (X : C) :
+    F ⋙ coyoneda.obj (op (F.obj X)) ⋙ uliftFunctor.{v₁} ≅
+      coyoneda.obj (op X) ⋙ uliftFunctor.{v₂} :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Could you use `uliftCoyoneda` in the definition?
Also, I am not sure we absolutely need all the subsequent definitions with special values of the universes.

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: Of course, sorry that I forgot to change that here too. I also removed `homNatIsoMaxRight` and the other versions of this lemma, but I had to change something in a proof in the file `Limits/Indization/FilteredColimits.lean` where it was used.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 6]
```diff
@@ -706,6 +728,24 @@ lemma hom_ext_uliftYoneda {P Q : Cᵒᵖ ⥤ Type max w v₁} {f g : P ⟶ Q}
   ext X x
   simpa [uliftYonedaEquiv] using congr_arg uliftYonedaEquiv.{w} (h _ (uliftYonedaEquiv.symm x))
 
+/-- A variant of the curried version of the Yoneda lemma with a raise in the universe level. -/
+def largeCurriedUliftYonedaLemma {C : Type u₁} [Category.{v₁} C] :
+    yoneda.op ⋙ ((whiskeringRight _ _ _).obj uliftFunctor.{w}).op ⋙ coyoneda ≅
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Is not it possible to use `uliftYoneda.op` in the LHS?

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: I changed that and the coyoneda version.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 7]
```diff
@@ -706,6 +728,24 @@ lemma hom_ext_uliftYoneda {P Q : Cᵒᵖ ⥤ Type max w v₁} {f g : P ⟶ Q}
   ext X x
   simpa [uliftYonedaEquiv] using congr_arg uliftYonedaEquiv.{w} (h _ (uliftYonedaEquiv.symm x))
 
+/-- A variant of the curried version of the Yoneda lemma with a raise in the universe level. -/
+def largeCurriedUliftYonedaLemma {C : Type u₁} [Category.{v₁} C] :
+    uliftYoneda.op ⋙ coyoneda ≅
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Could you add an explicit universe for `uliftYoneda`? The name of the definition should probably be changed also.

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: I change this name to `uliftYonedaOpCompCoyoneda`, I am not sure if that is what you had in mind. Should I also change the name of `largeCurriedYonedaLemma` (and same for the coyoneda version), which was previously there?

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 8]
```diff
@@ -880,6 +903,78 @@ lemma isIso_iff_isIso_coyoneda_map {X Y : C} (f : X ⟶ Y) :
...
+
+@[deprecated (since := "2025-08-04")] alias coyonedaCompUliftFunctorEquiv :=
+  uliftCoyonedaEquiv
+
+attribute [simp] uliftCoyonedaEquiv_symm_apply_app
+
+lemma uliftCoyonedaEquiv_naturality {X Y : C} {F : C ⥤ Type max w v₁}
+    (f : uliftCoyoneda.{w}.obj (op X) ⟶ F)
+    (g : X ⟶ Y) : F.map g (uliftCoyonedaEquiv.{w} f) =
+      uliftCoyonedaEquiv.{w} (uliftCoyoneda.map g.op ≫ f) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]:
```suggestion
    (f : uliftCoyoneda.{w}.obj (op X) ⟶ F) (g : X ⟶ Y) :
    F.map g (uliftCoyonedaEquiv.{w} f) =
      uliftCoyonedaEquiv.{w} (uliftCoyoneda.map g.op ≫ f) := by
```

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 9]
```diff
@@ -960,34 +1055,33 @@ variable {C : Type u₁} [Category.{v₁} C]
...
 
 /-- `FullyFaithful.homEquiv` as a natural isomorphism. -/
 @[simps!]
-def homNatIsoMaxRight {D : Type u₂} [Category.{max v₁ v₂} D] {F : C ⥤ D} (hF : F.FullyFaithful)
-    (X : C) : F.op ⋙ yoneda.obj (F.obj X) ≅ yoneda.obj X ⋙ uliftFunctor.{v₂} :=
-  NatIso.ofComponents
-    (fun Y => Equiv.toIso (hF.homEquiv.symm.trans Equiv.ulift.symm))
+def compUliftYonedaCompWhiskeringLeft {D : Type u₂} [Category.{v₂} D] {F : C ⥤ D}
+    (hF : F.FullyFaithful) : F ⋙ uliftYoneda.{v₁} ⋙ (whiskeringLeft _ _ _).obj F.op ≅
+      uliftYoneda.{v₂} :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]:
```suggestion
    (hF : F.FullyFaithful) :
    F ⋙ uliftYoneda.{v₁} ⋙ (whiskeringLeft _ _ _).obj F.op ≅
      uliftYoneda.{v₂} :=
```

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 10]
```diff
@@ -960,34 +1055,33 @@ variable {C : Type u₁} [Category.{v₁} C]
...
 @[simps!]
-def compYonedaCompWhiskeringLeftMaxRight {D : Type u₂} [Category.{max v₁ v₂} D] {F : C ⥤ D}
-    (hF : F.FullyFaithful) : F ⋙ yoneda ⋙ (whiskeringLeft _ _ _).obj F.op ≅
-      yoneda ⋙ (Functor.whiskeringRight _ _ _).obj uliftFunctor.{v₂} :=
-  NatIso.ofComponents (fun X => hF.homNatIsoMaxRight _)
+def compUliftCoyonedaCompWhiskeringLeft {D : Type u₂} [Category.{v₂} D] {F : C ⥤ D}
+    (hF : F.FullyFaithful) : F.op ⋙ uliftCoyoneda.{v₁} ⋙ (whiskeringLeft _ _ _).obj F ≅
+      uliftCoyoneda.{v₂} :=
+  NatIso.ofComponents (fun X => hF.homNatIso' _)
     (fun f => by ext; exact Equiv.ulift.injective (hF.map_injective (by simp)))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:1102]: You may have to add a few deprecated aliases here.

Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean:1102]: I added a deprecated alias for `compYonedaCompWhiskeringLeft` (now `compUliftYonedaCompWhiskeringLeft`), and two deprecated definitions for `homNatIsoMaxRight` and `compYonedaCompWhiskeringLeftMaxRight`. For these definitions I used that `uliftYoneda.{max v w, v, u} ≅ uliftYoneda.{w, v, u}` to write them using `homNatIso` and `compUliftYonedaCompWhiskeringLeft`. I don't know if this isomorphism should be added as a new definition or if it is not considered useful.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 11]
```diff
@@ -960,34 +1053,52 @@ variable {C : Type u₁} [Category.{v₁} C]
...
-@[simps!]
+@[simps!, deprecated homNatIso (since := "2025-10-28")]
 def homNatIsoMaxRight {D : Type u₂} [Category.{max v₁ v₂} D] {F : C ⥤ D} (hF : F.FullyFaithful)
-    (X : C) : F.op ⋙ yoneda.obj (F.obj X) ≅ yoneda.obj X ⋙ uliftFunctor.{v₂} :=
-  NatIso.ofComponents
-    (fun Y => Equiv.toIso (hF.homEquiv.symm.trans Equiv.ulift.symm))
-    (fun f => by ext; exact Equiv.ulift.injective (hF.map_injective (by simp)))
+    (X : C) : F.op ⋙ yoneda.obj (F.obj X) ≅ uliftYoneda.obj.{v₂} X :=
+  isoWhiskerLeft F.op (uliftYonedaIsoYoneda.symm.app _) ≪≫ hF.homNatIso _
+    ≪≫ NatIso.ofComponents (fun _ => Equiv.toIso (Equiv.ulift.trans Equiv.ulift.symm))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]: Infix operators should appear before the linebreak:
```suggestion
  isoWhiskerLeft F.op (uliftYonedaIsoYoneda.symm.app _) ≪≫ hF.homNatIso _ ≪≫
    NatIso.ofComponents (fun _ => Equiv.toIso (Equiv.ulift.trans Equiv.ulift.symm))
```

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 12]
```diff
@@ -960,34 +1053,52 @@ variable {C : Type u₁} [Category.{v₁} C]
...
+@[simps!, deprecated compUliftYonedaCompWhiskeringLeft (since := "2025-10-28")]
 def compYonedaCompWhiskeringLeftMaxRight {D : Type u₂} [Category.{max v₁ v₂} D] {F : C ⥤ D}
-    (hF : F.FullyFaithful) : F ⋙ yoneda ⋙ (whiskeringLeft _ _ _).obj F.op ≅
-      yoneda ⋙ (Functor.whiskeringRight _ _ _).obj uliftFunctor.{v₂} :=
-  NatIso.ofComponents (fun X => hF.homNatIsoMaxRight _)
+    (hF : F.FullyFaithful) : F ⋙ yoneda ⋙ (whiskeringLeft _ _ _).obj F.op ≅ uliftYoneda.{v₂} := by
+  refine isoWhiskerLeft F (isoWhiskerRight uliftYonedaIsoYoneda.symm.{v₁} _)
+    ≪≫ hF.compUliftYonedaCompWhiskeringLeft
+    ≪≫ NatIso.ofComponents (fun _ => NatIso.ofComponents
+    (fun _ => Equiv.toIso (Equiv.ulift.trans Equiv.ulift.symm)))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean]:
```suggestion
  refine isoWhiskerLeft F (isoWhiskerRight uliftYonedaIsoYoneda.symm.{v₁} _) ≪≫
    hF.compUliftYonedaCompWhiskeringLeft ≪≫
    NatIso.ofComponents (fun _ => NatIso.ofComponents
      (fun _ => Equiv.toIso (Equiv.ulift.trans Equiv.ulift.symm)))
```

File: Mathlib/CategoryTheory/Yoneda.lean (hunk 11 above)
Comment (BGuillemet) [reply Mathlib/CategoryTheory/Yoneda.lean]: Ok, thanks!
